US09108921B2
Step A: benzo[d]isothiazole (24B)
To a solution of o-toluidine (10 g, 93.4 mmol) in 50 mL toluene was added SOCl2 (12.1 g, 102 mmol) dropwise at 0° C. After the addition was complete, the reaction mixture was heated to reflux and stirred overnight. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure to give a yellow oil. The oil was dissolved in toluene (100 mL), then a solution of N-sulfinylmethanesulfonamide (20.6 g, 146 mmol) was added dropwise, followed by pyridine (7.3 g, 93.4 mmol). The mixture was heated to reflux and stirred at that temperature overnight. Toluene was then removed under reduced pressure, the residue was dissolved in EtOAc (200 mL) and washed with water (2×200 mL). The organic layer was washed with brine, dried and evaporated to give the crude product. The crude product was purified by column chromatography (3% EtOAc/PE) to afford 6.2 g title compound as colorless oil. 1H NMR (CHLOROFORM-d) δ 9.22 (s, 1H), 7.88 (d, J=9.7 Hz, 1H), 7.80 (d, J=8.6 Hz, 1H), 7.46 (ddd, J=8.9, 6.5, 1.2 Hz, 1H), 7.26 (dd, J=7.9, 6.6 Hz, 1H).

reactant | o-toluidine | 93.4 mmol, 10 g | NC=1C(=CC=CC1)C | C7H9N
reactant | SOCl2 | 102 mmol, 12.1 g | O=S(Cl)Cl | Cl2OS
reactant | N-sulfinylmethanesulfonamide | 146 mmol, 20.6 g | S(=O)=NS(=O)(=O)C | CH3NO3S2
reactant | pyridine | 93.4 mmol, 7.3 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | benzo[d]isothiazole | 6.2 g | S1N=CC2=C1C=CC=C2 | C7H5NS
